US05276041
4-hydroxyiminopiperidine hydrochloride
1.54 g (10.0 mmol) of 4-piperidone hydrochloride monohydrate was refluxed for one hour in 30 ml of methanol in the presence of 0.70 g (10.0 mmol) of hydroxylamine hydrochloride and 0.82 g (10.0 mmol) of sodium acetate. Then, methanol was distilled off, and the precipitate thereby formed was washed with isopropanol, and the mother liquor was distilled under reduced pressure. Diethyl ether was added to the residue thereby obtained for crystallization to give 0.45 g of the desired product as colorless powder.

reactant | 4-piperidone hydrochloride monohydrate | 10.0 mmol, 1.54 g | O.Cl.N1CCC(CC1)=O
reactant | hydroxylamine hydrochloride | 10.0 mmol, 0.70 g | Cl.NO
reactant | sodium acetate | 10.0 mmol, 0.82 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 4-hydroxyiminopiperidine hydrochloride | 0.45 g | Cl.ON=C1CCNCC1 | InChI=1S/C5H10N2O.ClH/c8-7-5-1-3-6-4-2-5;/h6,8H,1-4H2;1H
